US09216980B2
Step 1: 6′-Chloro-5-(3,5-dimethoxy-4-piperidin-1-ylmethylphenyl)-2-fluoro-[3,4′]bipyridinyl-3′-ylamine
A degassed mixture of 6′-chloro-2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-[3,4′]bipyridinyl-3′-ylamine (630 mg, 1.80 mmol), trifluoromethanesulfonic acid 3,5-dimethoxy-4-piperidin-1-ylmethylphenyl ester (1.06 g, 1.98 mmol), 1,1′-[bis(diphenylphosphino)ferrocene]dichloropalladium(II) (147 mg, 0.18 mmol) in 1N aqueous potassium fluoride solution (10 mL) and acetonitrile (8 mL) was heated under microwave irradiation at 100° C. for 30 minutes. The cooled reaction mixture was partitioned between DCM (50 mL) and brine (50 mL). The organic phase was separated, dried over sodium sulfate, filtered and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 20 g column, ISCO, 0-10% methanol in DCM) to afford the title compound as a white solid (830 mg, 76%). 1H NMR (CDCl3 plus CD3OD, 300 MHz): 8.52-8.57 (m, 1H), 8.12-8.19 (m, 1H), 7.98 (s, 1H), 7.19 (s, 1H), 6.91 (s, 2H), 4.34 (s, 2H), 4.01 (s, 6H), 2.87-3.64 (ν br m, 4H), 1.63-2.02 (s, 6H).

reactant | 6′-chloro-2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-[3,4′]bipyridinyl-3′-ylamine | 1.80 mmol, 630 mg | ClC1=CC(=C(C=N1)N)C=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)F | C16H18BClFN3O2
reactant | trifluoromethanesulfonic acid 3,5-dimethoxy-4-piperidin-1-ylmethylphenyl ester | 1.98 mmol, 1.06 g | COC=1C=C(C=C(C1CN1CCCCC1)OC)OS(=O)(=O)C(F)(F)F | C15H20F3NO5S
solvent | potassium fluoride | 1N, 10 mL | [F-].[K+]
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | 6′-Chloro-5-(3,5-dimethoxy-4-piperidin-1-ylmethylphenyl)-2-fluoro-[3,4′]bipyridinyl-3′-ylamine | 830 mg, 76% | ClC1=CC(=C(C=N1)N)C=1C(=NC=C(C1)C1=CC(=C(C(=C1)OC)CN1CCCCC1)OC)F | C24H26ClFN4O2
